US06716851B2
4-(3-Methoxybenzylamino)-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine
A mixture of 4-chloro-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine (50 mg, 0.193 mmol) and 3-methoxybenzylamine (37 μl, 0.290 mmol) in 10 ml of ethanol was stirred at room temperature for 48 h. The mixture was rotary evaporated to dryness and purified by preparative TLC with hexane:ethyl acetate (3:1) to give a yellow solid (14 mg, 20%). 1H NMR (CDCl3): 9.60-9.59 (m, 1H), 8.70-8.66 (m, 2H), 7.40-7.32 (m, 1H), 7.30 (d, J 7.8 Hz, 1H), 6.95 (d, J=7.8 Hz, 1H), 6.91 (s, 1H), 6.85 (dd, J=2.7, 8.4 Hz, 1H), 6.62 (s, 1H), 5.75 (bs, 1H), 4.73 (s, 2H), 3.79 (s, 3H).

reactant | 4-chloro-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine | 0.193 mmol, 50 mg | ClC1=NC(=NC(=C1)C(F)(F)F)C=1C=NC=CC1 | C10H5ClF3N3
reactant | 3-methoxybenzylamine | 0.290 mmol, 37 μl | COC=1C=C(CN)C=CC1 | C8H11NO
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 4-(3-Methoxybenzylamino)-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine | 14 mg, 20% | COC=1C=C(CNC2=NC(=NC(=C2)C(F)(F)F)C=2C=NC=CC2)C=CC1 | C18H15F3N4O
